### ISSUE TITLE
Isomorphism from residue field of Dedekind domain to residue field of completion

### ISSUE THREAD

**Issue by kbuzzard** [ImperialCollegeLondon/FLT#449]
The previous issue #448 gave us a map A / P_v -> residue field of O_v, where A is a Dedekind domain, P_v is a nonzero prime ideal, v is the corersponding valuation, ideal, and O_v is the integers in the v-adic completion of K, the field of fractions of A.
This issue is to prove that the map is an isomorphism. Injectivity should follow from the claim that P_v is exactly the stuff in A with v-adic valuation less than 1. Surjectivity is a bit deeper but follows from results just above the sorry in the same file, in particular `exists_adicValued_sub_lt_of_adicValued_le_one` will help.

**Comment by Aaron1011** [comment]
claim

**Comment by pechersky** [comment]
@Aaron1011 sorry, I didn't see you claimed it. here's my progress
```
open IsLocalRing in
lemma comap_algebraMap_maximalIdeal_adicCompletionIntegers :
    Ideal.comap (algebraMap A _) (maximalIdeal (v.adicCompletionIntegers K)) = v.asIdeal := by
  ext x
  simp only [Ideal.mem_comap, mem_maximalIdeal, mem_nonunits_iff]
  rw [Valuation.Integer.not_isUnit_iff_valuation_lt_one]
  change Valued.v (algebraMap A K _ : adicCompletion K v) < 1 ↔ _
  simp [valuation_lt_one_iff_dvd]

open IsLocalRing in
/-- The canonical ring homomorphism from A / v to 𝓞ᵥ / v, where 𝓞ᵥ is the integers of the
completion Kᵥ of the field of fractions of A. -/
noncomputable def ResidueFieldToCompletionResidueField :
    A ⧸ v.asIdeal →+* ResidueField (v.adicCompletionIntegers K) :=
  Ideal.quotientMap _ (algebraMap _ _) <|
    (comap_algebraMap_maximalIdeal_adicCompletionIntegers ..).ge

noncomputable
instance : Algebra (A ⧸ v.asIdeal) (IsLocalRing.ResidueField (v.adicCompletionIntegers K)) :=
  (ResidueFieldToCompletionResidueField _ _).toAlgebra

lemma algebraMap_quot_residueField_eq_mk_algebraMap (a : A) :
    algebraMap (A ⧸ v.asIdeal) (IsLocalRing.ResidueField (v.adicCompletionIntegers K))
    (a : A ⧸ v.asIdeal) =
  Ideal.Quotient.mk (IsLocalRing.maximalIdeal ((v.adicCompletionIntegers K)))
    (algebraMap A (v.adicCompletionIntegers K) a) := rfl

instance :
    FaithfulSMul (A ⧸ v.asIdeal) (IsLocalRing.ResidueField (v.adicCompletionIntegers K)) := by
  constructor
  intro r s
  refine Submodule.Quotient.induction_on _ r ?_
  refine Submodule.Quotient.induction_on _ s ?_
  simp only [Ideal.Quotient.mk_eq_mk]
  simp_rw [Algebra.smul_def, algebraMap_quot_residueField_eq_mk_algebraMap]
  intro r s h
  specialize h 1
  rw [mul_one, mul_one, Ideal.Quotient.mk_eq_mk_iff_sub_mem, ← map_sub,
    ← Ideal.mem_comap, comap_algebraMap_maximalIdeal_adicCompletionIntegers] at h
  simpa [Ideal.Quotient.mk_eq_mk_iff_sub_mem] using h


-- TODO: move; but it doesn't work in rewrites due to proof differences ...
@[simp]
theorem Ideal.quotientMap_mk_apply {R S : Type*} [Ring R] [Ring S] {J : Ideal R} {I : Ideal S}
    [I.IsTwoSided] [J.IsTwoSided] {f : R →+* S} (H : J ≤ I.comap f) (x : R):
    (Ideal.quotientMap I f H) (Ideal.Quotient.mk J x) = (Ideal.Quotient.mk I) (f x) := by
  rw [← RingHom.comp_apply, Ideal.quotientMap_comp_mk, RingHom.comp_apply]

open IsLocalRing in
/-- The canonical isomorphism from A / v to 𝓞ᵥ / v, where 𝓞ᵥ is the integers of the
completion Kᵥ of the field of fractions K of A. -/
noncomputable def ResidueFieldEquivCompletionResidueField :
    A ⧸ v.asIdeal ≃+* ResidueField (v.adicCompletionIntegers K) :=
  RingEquiv.ofBijective (ResidueFieldToCompletionResidueField K v) <| by
    constructor
    · intro x y
      refine Submodule.Quotient.induction_on _ x ?_
      refine Submodule.Quotient.induction_on _ y ?_
      intro x y
      simp only [Ideal.Quotient.mk_eq_mk]
      rw [← sub_eq_zero, ← map_sub, ← map_sub, ← RingHom.comp_apply]
      simp only [ResidueFieldToCompletionResidueField]
      rw [Ideal.quotientMap_comp_mk]
      intro h
      -- not sure why RingHom.comp_apply doesn't fire here
      change Ideal.Quotient.mk (maximalIdeal ((v.adicCompletionIntegers K)))
        (algebraMap A (v.adicCompletionIntegers K) _) = 0 at h
      rw [Ideal.Quotient.eq_zero_iff_mem, ← Ideal.mem_comap,
        comap_algebraMap_maximalIdeal_adicCompletionIntegers] at h
      simpa [Ideal.Quotient.mk_eq_mk_iff_sub_mem] using h
    · intro x
      refine Submodule.Quotient.induction_on _ x ?_
      intro x
      suffices ∃ a : A, (ResidueFieldToCompletionResidueField K v) a = Ideal.Quotient.mk _ x by
        obtain ⟨a, ha⟩ := this
        refine ⟨a, ?_⟩
        rw [Ideal.Quotient.mk_eq_mk, ← ha]
      simp only [ResidueFieldToCompletionResidueField]
      change ∃ a, Ideal.Quotient.mk (maximalIdeal ((v.adicCompletionIntegers K)))
        (algebraMap A (v.adicCompletionIntegers K) a) = _
      simp_rw [Ideal.Quotient.mk_eq_mk_iff_sub_mem]
      simp only [mem_maximalIdeal, mem_nonunits_iff]
      suffices ∃ a, (Valued.v ((
        (algebraMap A (v.adicCompletionIntegers K)) a - x) : v.adicCompletion K)
        : WithZero (Multiplicative ℤ)) < 1 by
        obtain ⟨a, ha⟩ := this
        refine ⟨a, ?_⟩
        rw [Valuation.Integer.not_isUnit_iff_valuation_lt_one]
        simpa using ha
      -- argument
      --   ↑x
      -- has type
      --   adicCompletion K v : Type u_2
      -- but is expected to have type
      --   WithVal (valuation K v) : Type u_2
      -- have := exists_adicValued_sub_lt_of_adicValued_le_one K v 1 (x := x.val)
      sorry
```

**Comment by matthewjasper** [comment]
`exists_adicValued_sub_lt_of_adicCompletionInteger` is probably better suited to this than `exists_adicValued_sub_lt_of_adicValued_le_one`
